US06110964
4'-Fluorobiphenyl-4-thiol
Lithium aluminum hydride (0.95 grams, 25 mmole) was added in portions to a stirred solution of 4'-fluorobiphenyl-4-sulfonylchloride (2.7 grams, 10 mmole) in tetrahydrofuran (75 mL). The resulting mixture was heated at reflux for 4 hours, cooled in an ice bath and quenched by addition of 10% aqueous sulfuric acid solution (100 mL). After stirring for 30 minutes, the mixture was filtered through Celite™ and the tetrahydrofuran was removed under vacuum. The residue was diluted with water and extracted with diethyl ether. The organic layer was washed with water and brine, dried over magnesium sulfate and concentrated under vacuum to a solid. Trituration of the solid with diethyl ether, removal of insoluble material by filtration and concentrated of the filtrate provided the title compound as a yellow solid (1.4 grams, 69%).

reactant | Lithium aluminum hydride | 25 mmole, 0.95 grams | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4'-fluorobiphenyl-4-sulfonylchloride | 10 mmole, 2.7 grams | FC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)Cl | C12H8ClFO2S
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
product | 4'-Fluorobiphenyl-4-thiol | 1.4 grams, 69% | FC1=CC=C(C=C1)C1=CC=C(C=C1)S | C12H9FS
